US07705004B2
To a solution of N4-(1H-indazol-6-yl)-N2-(4-(methylthio)phenyl)-7-tosyl-7H-pyrrolo[2,3-d]pyrimidine-2,4-diamine (102 mg, 0.19 mmol) in acetone (4 mL), m-chloroperbenzoic acid (mCPBA) (70%, 34 mg, 0.14 mmol) was added. After being stirred at room temperature for 2 h, the mixture was concentrated in vacuo. The residue was dissolved in dioxane (3 mL) and aq. 1N KOH (1.5 mL, 1.5 mmol) was added. After being stirred at 70° C. for 24 h, the mixture was concentrated in vacuo. The residue was acidified with acetic acid (HOAc) (2 mL) before it was purified by HPLC to give N4-(1H-indazol-6-yl)-N2-(4-(methylsulfinyl)phenyl)-7H-pyrrolo[2,3-d]pyrimidine-2,4-diamine (21 mg), MS 404.1 (M+H) (Compound 10-2); and N4-(1H-indazol-6-yl)-N2-(4-(methylthio)phenyl)-7H-pyrrolo[2,3-d]pyrimidine-2,4-diamine (10 mg), MS 388.1 (M+H) (Compound 10-1).

reactant | N4-(1H-indazol-6-yl)-N2-(4-(methylthio)phenyl)-7-tosyl-7H-pyrrolo[2,3-d]pyrimidine-2,4-diamine | 0.19 mmol, 102 mg | N1N=CC2=CC=C(C=C12)NC=1C2=C(N=C(N1)NC1=CC=C(C=C1)SC)N(C=C2)S(=O)(=O)C2=CC=C(C)C=C2 | C27H23N7O2S2
reactant | m-chloroperbenzoic acid | 0.14 mmol, 34 mg | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | KOH | 1.5 mmol, 1N, 1.5 mL | [OH-].[K+]
solvent | acetone | 4 mL | CC(=O)C | C3H6O
product | N4-(1H-indazol-6-yl)-N2-(4-(methylsulfinyl)phenyl)-7H-pyrrolo[2,3-d]pyrimidine-2,4-diamine | 21 mg | N1N=CC2=CC=C(C=C12)NC=1C2=C(N=C(N1)NC1=CC=C(C=C1)S(=O)C)NC=C2 | C20H17N7OS
